US06329380B1
2-[1-(1-(3,4-Dichlorophenylcarbamoyl)piperidin-3-yl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
The title compound was prepared from 2-[1-(piperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine and 3,4-dichlorophenylisocyanate according to the procedure described in EXAMPLE 29. Mass spectrum (ESI) 510.3 (M+).

reactant | 2-[1-(piperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine | N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C18H22N6
reactant | 3,4-dichlorophenylisocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
product | 2-[1-(1-(3,4-Dichlorophenylcarbamoyl)piperidin-3-yl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | ClC=1C=C(C=CC1Cl)NC(=O)N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C25H25Cl2N7O
